US05519016
In 100 ml of methanol was dissolved 1.98 g (0.0068 mole) of 1-t-butoxycarbonyl-3-methoxy-4-phenylaminopyrrolidine obtained as described above, and 23.5 ml of 6N hydrochloric acid was added thereto. The mixture was left to stand at room temperature overnight. The solvent was removed under reduced pressure, and the residue was washed with ethanol to obtain 1.71 g of 3-methoxy-4-phenylaminopyrrolidine hydrochloride as white powder.

reactant | 1-t-butoxycarbonyl-3-methoxy-4-phenylaminopyrrolidine | 0.0068 mole, 1.98 g | C(C)(C)(C)OC(=O)N1CC(C(C1)NC1=CC=CC=C1)OC | C16H24N2O3
reactant | hydrochloric acid | 6N, 23.5 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 3-methoxy-4-phenylaminopyrrolidine hydrochloride | 1.71 g | Cl.COC1CNCC1NC1=CC=CC=C1 | InChI=1S/C11H16N2O.ClH/c1-14-11-8-12-7-10(11)13-9-5-3-2-4-6-9;/h2-6,10-13H,7-8H2,1H3;1H
